* NGSPICE file created from ihp_sg13g2_rom_slice.ext - technology: ihp-sg13g2

.subckt ihp_sg13g2_rom_slice VGND VPWR WL_PRESENT EN_PRESENT PRE_PRESENT Q_PRESENT
+ WL_ABSENT EN_ABSENT PRE_ABSENT Q_ABSENT
X0 VGND EN_ABSENT NROW_ABSENT/S NMASK_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.13u
X1 VPWR PRE_ABSENT BL_ABSENT VPWR sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.13u
X2 VPWR BL_PRESENT Q_PRESENT VPWR sg13_lv_pmos ad=9.24322p pd=77.045u as=0.77302p ps=7.205u w=1u l=0.13u
X3 NROW_PRESENT/S WL_PRESENT BL_PRESENT NROW_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=1.22242p pd=10.465u as=1.20022p ps=12.905u w=1u l=0.13u
X4 VPWR PRE_PRESENT BL_PRESENT VPWR sg13_lv_pmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X5 VGND BL_PRESENT Q_PRESENT NSENSE_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=9.72802p pd=81.085u as=0 ps=0 w=1u l=0.13u
X6 VPWR BL_ABSENT Q_ABSENT VPWR sg13_lv_pmos ad=0 pd=0 as=0.77302p ps=7.205u w=1u l=0.13u
X7 VGND BL_ABSENT Q_ABSENT NSENSE_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X8 VGND EN_PRESENT NROW_PRESENT/S NMASK_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X9 NROW_ABSENT/S WL_ABSENT ROM_DRAIN_ABSENT NROW_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=1.22242p pd=10.465u as=0.37962p ps=3.545u w=1u l=0.13u
C0 EN_PRESENT NROW_PRESENT/S 0.00679f
C1 NROW_PRESENT/S BL_PRESENT 0.16846f
C2 WL_PRESENT NROW_PRESENT/S 0.00679f
C3 Q_ABSENT NROW_ABSENT/S 0.00276f
C4 Q_ABSENT VPWR 0.28342f
C5 WL_ABSENT BL_ABSENT 0.03349f
C6 Q_PRESENT PRE_PRESENT 0
C7 BL_ABSENT EN_ABSENT 0.04044f
C8 Q_PRESENT VPWR 0.2921f
C9 WL_ABSENT Q_ABSENT 0
C10 PRE_ABSENT VPWR 0.13858f
C11 ROM_DRAIN_ABSENT NROW_ABSENT/S 0.11279f
C12 EN_PRESENT Q_PRESENT 0
C13 Q_PRESENT BL_PRESENT 0.29351f
C14 WL_PRESENT Q_PRESENT 0
C15 PRE_ABSENT BL_PRESENT 0
C16 Q_ABSENT EN_ABSENT 0
C17 WL_ABSENT PRE_ABSENT 0
C18 PRE_PRESENT VPWR 0.13073f
C19 WL_ABSENT ROM_DRAIN_ABSENT 0.08352f
C20 NROW_ABSENT/S VPWR 0.02173f
C21 Q_ABSENT BL_ABSENT 0.29296f
C22 PRE_PRESENT BL_PRESENT 0.11593f
C23 WL_PRESENT PRE_PRESENT 0
C24 EN_PRESENT VPWR 0.01341f
C25 BL_PRESENT VPWR 0.51295f
C26 WL_PRESENT VPWR 0.01336f
C27 Q_PRESENT NROW_PRESENT/S 0.00276f
C28 BL_ABSENT Q_PRESENT 0
C29 EN_PRESENT BL_PRESENT 0.04045f
C30 WL_ABSENT NROW_ABSENT/S 0.00679f
C31 EN_PRESENT WL_PRESENT 0.00271f
C32 WL_ABSENT VPWR 0.01336f
C33 WL_PRESENT BL_PRESENT 0.11867f
C34 BL_ABSENT PRE_ABSENT 0.11593f
C35 BL_ABSENT ROM_DRAIN_ABSENT 0.02279f
C36 EN_ABSENT NROW_ABSENT/S 0.00679f
C37 WL_ABSENT BL_PRESENT 0
C38 EN_ABSENT VPWR 0.01341f
C39 Q_ABSENT PRE_ABSENT 0
C40 Q_ABSENT ROM_DRAIN_ABSENT 0
C41 NROW_PRESENT/S VPWR 0.02173f
C42 BL_ABSENT NROW_ABSENT/S 0.05552f
C43 BL_ABSENT VPWR 0.55684f
C44 WL_ABSENT EN_ABSENT 0.00271f
R0 VGND NMASK_ABSENT/w_n81_n155.t0 2518.52
R1 VGND NROW_PRESENT/w_n81_n155.t0 2518.52
R2 VGND NSENSE_PRESENT/w_n81_n155.t0 2518.52
R3 VGND NSENSE_ABSENT/w_n81_n155.t0 2518.52
R4 VGND NMASK_PRESENT/w_n81_n155.t0 2518.52
R5 VGND NROW_ABSENT/w_n81_n155.t0 2518.52
R6 Q_ABSENT.n0 Q_ABSENT 0.548
R7 Q_ABSENT Q_ABSENT.n0 12.0176
R8 Q_ABSENT.n0 Q_ABSENT 10.1896
R9 Q_PRESENT.n0 Q_PRESENT 0.548
R10 Q_PRESENT Q_PRESENT.n0 12.0176
R11 Q_PRESENT.n0 Q_PRESENT 10.1896
R12 VPWR VPWR.n3 0.730083
R13 VPWR.n3 VPWR.n2 2.83383
R14 VPWR.n2 VPWR.n1 1.89175
R15 VPWR.n1 VPWR.n0 1.65092
R16 VPWR VPWR.n3 0.227167
R17 VPWR.n2 VPWR 0.227167
R18 VPWR.n1 VPWR 16.2201
R19 VPWR.n0 VPWR 0.227167
R20 VPWR.n0 VPWR 3.0605
R21 VGND VGND.n4 2.14675
R22 VGND.n4 VGND.n3 1.41717
R23 VGND VGND.n4 0.478625
R24 VGND.n3 VGND 0.478625
R25 VGND.n3 VGND.n1 1.87758
R26 VGND.n1 VGND.n2 3.05342
R27 VGND.n2 VGND 0.478625
R28 VGND.n2 VGND 1.89529
R29 VGND.n1 VGND.n0 7941
R30 VGND.n0 VGND 1275
R31 VGND VGND.n0 2025
R32 BL_ABSENT.n0 BL_ABSENT 5.18961
R33 BL_ABSENT BL_ABSENT.n0 0.763958
R34 BL_ABSENT.n0 BL_ABSENT 8.02874
R35 BL_PRESENT.n1 BL_PRESENT 5.37211
R36 BL_PRESENT.n1 BL_PRESENT 7.84624
R37 BL_PRESENT.n1 BL_PRESENT 0.846083
R38 BL_PRESENT BL_PRESENT.n0 0.763958
R39 BL_PRESENT.n0 BL_PRESENT 8.02874
R40 BL_PRESENT.n0 BL_PRESENT 5.18961
C45 BL_PRESENT.n0 VGND 0.2123f ; **FLOATING
C46 BL_PRESENT.n1 VGND 0.22294f ; **FLOATING
C47 BL_ABSENT.n0 VGND 0.23274f ; **FLOATING
C48 VPWR.n0 VGND 0.03673f ; **FLOATING
C49 VPWR.n1 VGND 0.0328f ; **FLOATING
C50 VPWR.n2 VGND 0.03564f ; **FLOATING
C51 VPWR.n3 VGND 0.02728f ; **FLOATING
C52 Q_PRESENT.n0 VGND 0.19259f ; **FLOATING
C53 Q_ABSENT.n0 VGND 0.18843f ; **FLOATING
C54 NROW_ABSENT/S VGND 0.4788f
C55 ROM_DRAIN_ABSENT VGND 0.07392f
C56 WL_ABSENT VGND 0.303f
C57 EN_PRESENT VGND 0.32032f
C58 Q_ABSENT VGND 0.90993f
C59 PRE_PRESENT VGND 0.24402f
C60 VPWR VGND 3.0353f
C61 NROW_PRESENT/S VGND 0.4788f
C62 BL_PRESENT VGND 1.86715f
C63 WL_PRESENT VGND 0.304f
C64 Q_PRESENT VGND 0.90545f
C65 BL_ABSENT VGND 1.94813f
C66 PRE_ABSENT VGND 0.24088f
C67 EN_ABSENT VGND 0.32032f
.ends
